US07795283B2
Intermediate 93: Ethyl 3-(4-aminobenzyl)cyclobutanecarboxylate
Ethyl 3-(4-nitrobenzyl)cyclobutanecarboxylate (4.02 mmol) was stirred in EtOAc (20 mL) at room temperature and nitrogen was bubbled through. 10% Palladium on carbon (160 mg) was added and the reaction vessel was put under an atmosphere of hydrogen. The mixture was stirred overnight then filtered through diatomaceous earth and concentrated by evaporation under reduced pressure. The residue was purified by chromatography eluting with 0-55% EtOAc/isohexane to give the title compound (466 mg, 50%) as an oil; 1H NMR δ 1.15-1.20 (3H, m), 1.77-1.94 (2H, m), 2.13-2.20 (2H, m), 2.33-2.37 (2H, m), 2.43-2.46 (1H, m), 2.53-2.56 (1H, m), 2.92-3.07 (1H, m), 4.01-4.08 (2H, m), 4.77 (2H, d), 6.46-6.49 (2H, m), 6.78-6.82 (2H, m); MS m/e M+MeCN 275.

reactant | Ethyl 3-(4-nitrobenzyl)cyclobutanecarboxylate | 4.02 mmol | [N+](=O)([O-])C1=CC=C(CC2CC(C2)C(=O)OCC)C=C1 | C14H17NO4
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | Ethyl 3-(4-aminobenzyl)cyclobutanecarboxylate | 466 mg, 50% | NC1=CC=C(CC2CC(C2)C(=O)OCC)C=C1 | C14H19NO2
